### ISSUE TITLE
Potenzmenge lacks the theorem `Set.union_comm`

### ISSUE THREAD

**Issue by bernborgess** [hhu-adam/Robo#37]
> Since it is still under development, I am not sure if every path is properly defined, but here is what I found.

In the level 2 / 8 of `[WIP] Mengenlehre 2` we are introduced to theorems involving `Powerset` and `subset_union`. Even so, we are not allowed to close a goal with `Set.subset_union_of_subset_left`, when we cannot use commutativity of the union:

![image](https://github.com/hhu-adam/Robo/assets/62393097/a5e628e7-91f0-418d-bee3-b8487f1eba0a)

Is this the intention? My proof so far:
```lean
example (X Y : Set ℕ): 𝒫 X ∪ 𝒫 Y ⊆ 𝒫 (X ∪ Y) := by
  intro S
  intro sInPxPy
  rw [Set.mem_powerset_iff]
  rw [Set.mem_union] at sInPxPy
  rcases sInPxPy with spx | spy
  rw [Set.mem_powerset_iff] at spx
  apply Set.subset_union_of_subset_left spx Y
  rw [Set.mem_powerset_iff] at spy
  have h : S ⊆ Y ∪ X
  apply Set.subset_union_of_subset_left spy X
```

Shouldn't `Set.union_comm` be available?

**Comment by joneugster** [comment]
Thanks! Even though the Set Theory stuff needs refactoring, your sample proof might come in helpful. So I'll leave this open for the time being

**Comment by TentativeConvert** [comment]
Set theory has meanwhile been rewritten.  We don't use “Potenzmenge”.
